US07169777B2
Step I: Preparation of (2R)-2-Diethylamino-2-phenyl-ethanol
To a solution of (R)-phenylglycinol (0.5 g, 3.6 mmol) in THF (15 mL) under nitrogen atmosphere, Na2CO3 (1.14 g, 10.8 mmol), tetrabutylammonium iodide (0.66 g, 1.8 mmol) and ethyl iodide (0.6 mmol, 7.3 mmol) were added. The reaction was stirred under reflux for 24 hours. The resulting mixture was cooled to room temperature and the solids filtered off. The filtrated was concentrated under reduced pressure and the residue was dissolved in EtOAc, washed with H2O, dried (Na2SO4), filtered and evaporated under reduced pressure. The crude product was purified by column chromatography (EtOAc-MeOH-Et3N 90:5:5) to afford the title compound (96%). MS m/z 194.2 (M++1)

reactant | (R)-phenylglycinol | 3.6 mmol, 0.5 g | C1=CC=C(C=C1)C(CO)N | C8H11NO
reactant | Na2CO3 | 10.8 mmol, 1.14 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl iodide | 0.6 mmol | C(C)I | C2H5I
reactant | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 1.8 mmol, 0.66 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2R)-2-Diethylamino-2-phenyl-ethanol | 96% | C(C)N([C@@H](CO)C1=CC=CC=C1)CC | C12H19NO
